US09085540B2
To a mixture of 4-bromocrotonic acid (632 mg) and acetonitrile (11 mL) were added oxalyl dichloride (308 μL) and N,N-dimethylformamide (2 droplets) under ice-cooling, followed by stirring at room temperature for 2 hours. To a mixture of 5-(3-aminophenoxy)-6-isopropyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide (1.1 g) and N-methylpyrrolidone (22 mL) was added a solution of the acid chloride prepared above under ice-cooling, followed by stirring at room temperature overnight. To the reaction mixture was added a saturated aqueous sodium hydrogen carbonate solution, and the precipitated solid was collected by filtration and dried under reduced pressure. The obtained solid was purified by silica gel column chromatography (eluent; chloroform:methanol=1:0-9:1) to obtain 5-(3-{[(2E)-4-chlorobuta-2-enoyl]amino}phenoxy)-6-isopropyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide (125 mg) as a solid.

reactant | 4-bromocrotonic acid | 632 mg | BrC/C=C/C(=O)O | C4H5BrO2
reactant | oxalyl dichloride | 308 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-(3-aminophenoxy)-6-isopropyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide | 1.1 g | NC=1C=C(OC=2N=C(C(=NC2C(C)C)C(=O)N)NC2=CC=C(C=C2)N2CCN(CC2)C)C=CC1 | C25H31N7O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N-methylpyrrolidone | 22 mL | CN1C(CCC1)=O | C5H9NO
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | acetonitrile | 11 mL | C(C)#N | C2H3N
product | 5-(3-{[(2E)-4-chlorobuta-2-enoyl]amino}phenoxy)-6-isopropyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide | 125 mg | ClC/C=C/C(=O)NC=1C=C(OC=2N=C(C(=NC2C(C)C)C(=O)N)NC2=CC=C(C=C2)N2CCN(CC2)C)C=CC1 | C29H34ClN7O3
